US05583131
To a stirred solution of perfluoroterephthalic acid (1.0 g, 4.2 mmol) in anhydrous THF (10 ml) under an atmosphere of dry argon was added Borane. THF complex (1.0M solution in THF, 10 equivalents, 42 ml) dropwise, and the mixture stirred at room temperature overnight. The solution was evaporated under reduced pressure to give a colourless oil and the excess Borane destroyed by addition of anhydrous methanol (40 ml) and evaporation (repeated three times). The residue was treated with 5% aqueous hydrocMoric acid then the pH of the mixture was adjusted to pH9 with 1N aqueous sodium hydroxide solution and extracted with dichloromethane (3×50 ml). The combined organic extracts were dried (MgSO4) and evaporated to give 2,3,5,6-tetrafluoro-p-xylene-.varies.,.varies.'-diol (0.75 g, 86%) as a white solid. This was used without further purification.

reactant | perfluoroterephthalic acid | 4.2 mmol, 1.0 g | FC1=C(C(=O)O)C(=C(C(=C1F)C(=O)O)F)F | C8H2F4O4
reactant | Borane | B | BH3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 1.0M, 42 ml, 10 equivalents | C1CCOC1 | C4H8O
product | 2,3,5,6-tetrafluoro-p-xylene | FC1=C(C(=C(C(=C1F)C)F)F)C | C8H6F4
